US04138581
Following the procedure described above in Example 58A but using 3,4-dihydroxyphenyl isopropylaminomethyl ketone hydrochloride instead of 3,4-dihydroxyphenyl tert-butylaminomethyl ketone hydrochloride and 10,13-octadecadienoyl chloride instead of isovaleryl chloride, there is obtained 3-hydroxy-4-(10,13-octadec a dienoyloxy)phenyl isopropylaminomethyl ketone; and by interaction of this base with methanesulfonic acid there is obtained the methanesulfonate salt. When this methanesulfonate is reduced with sodium borohydride, using a procedure similar to that described above in Example 30C, there is obtained 3-hydroxy-4-(10,13-octadecadienoyloxy)-alpha-(isopropylaminomethyl)benzyl alcohol methanesulfonate. By catalytic hydrogenation of 3-hydroxy-4-(10,13-octadienoyloxy)phenyl isopropylaminomethyl ketone methanesulfonate, using a procedure similar to that described above in Example 30B, there is obtained 3-hydroxy-4-(octadecanoyloxy)-alpha-(isopropylaminomethyl)benzyl methanesulfonate.

reactant | 3,4-dihydroxyphenyl isopropylaminomethyl ketone hydrochloride | Cl.C(C)(C)NCC(=O)C1=CC(=C(C=C1)O)O
reactant | 10,13-octadecadienoyl chloride | C(CCCCCCCCC=CCC=CCCCC)(=O)Cl | C18H31ClO
product | phenyl isopropylaminomethyl ketone | C(C)(C)NCC(=O)C1=CC=CC=C1 | C11H15NO
